US07358248B2
3. 2-tert-Butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-ylsulfanyl)-propanoic acid methyl ester
A solution of 2-tert-Butoxycarbonylamino-3-(4-bromophenylsulfanyl)-propanoic acid methyl ester (0.55 g, 1.41 mmol), 4-(4-dibenzofuranyl)benzeneboronic acid (0.44 g, 1.52 mmol) and Pd(PPh3)4 (0.073 g, 5 mol %) in toluene (15 mL) and ethanol (3.0 mL) was treated with 2 M K2CO3 (2.2 mL). The reaction mixture was heated to reflux for 2 h, cooled to room temperature, diluted with ethyl acetate (100 mL). The organic layer was washed successively with 2% aq HCl and sat. aq NaCl, dried over MgSO4 and concentrated. Purification by flash column chromatography (2-10% ethyl acetate in heptane) gave the desired product (552 mg, 72%) as a white solid. 1H NMR (CDCl3), δ 8.01 (d, J=6 Hz, 2H), 7.96 (dd, J=4 Hz, 8 Hz, 2H), 7.74 (d, J=9 Hz, 2H), 7.66 (m, 4H), 7.42 (m, 5H), 5.41 (d, J=7 Hz, 1H), 4.62 (m, 1H), 3.73 (s, 3H), 3.45 (d, J=4 Hz, 2H), 1.57 (s, 9H). LCMS 454 (M+−100).

reactant | 2-tert-Butoxycarbonylamino-3-(4-bromophenylsulfanyl)-propanoic acid methyl ester | 1.41 mmol, 0.55 g | COC(C(CSC1=CC=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C15H20BrNO4S
reactant | 4-(4-dibenzofuranyl)benzeneboronic acid | 1.52 mmol, 0.44 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)B(O)O | C18H13BO3
reactant | K2CO3 | 2 M, 2.2 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.073 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-tert-Butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-ylsulfanyl)-propanoic acid methyl ester | 552 mg, 72% | COC(C(CSC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(=O)OC(C)(C)C)=O | C33H31NO5S
